US05436359
2,3-Dimethoxy-6-(10-hydroxydecyl)-5-methyl-1,4-benzoquinone (338 mg, 1 mmol) was dissolved in dichloromethane (5 ml). Pyridine (0.1 ml, 1.2 mmol) followed by acetyl chloride (0.08 ml, 1.1 mmol) was added with stirring under ice-cooling. The mixture was stirred at the same temperature for 1 hour. Water (5 ml) was added to the reaction mixture which was then stirred at room temperature for 20 minutes. Then sodium hydrosulfite (400 mg, 2.3 mmol) was added, and the mixture was stirred for 2 hours. The dichloromethane layer was separated, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in dichloromethane (5 ml), and tert-butylchlorodiphenylsilane (550 mg, 2 mmol) was added. Then imidazole (136 mg, 2 mmol) was added under a stream of nitrogen. The reaction mixture was stirred at 43° C. for 16 hours and then washed with water (5 ml), and the organic layer was dried over anhydrous magnesium sulfate. Concentration under reduced pressure gave crude 6-(10-acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylphenol. The crude product was dissolved in dichloromethane (5 ml), and pyridine (0.1 ml, 1.2 mmol) followed by acetyl chloride (0.08 ml, 1.1 mmol) was added. The mixture was stirred at the same temperature for 30 minutes and washed with water (5 ml), and the dichloromethane layer was concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (8 ml), and tetrabutylammonium fluoride trihydrate (731 mg, 2 mmol) was added. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ether and washed with water. The ether layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain crude 1-acetoxy-6-(10-acetoxydecyl)-2,3-dimethoxy-4-hydroxy-5-methylbenzene. This crude product was dissolved in dichloromethane (10 ml). Methyl 1-O-trichloroacetimidoyl-2,3,4-tri-O-acetyl-α-D-glucopyranosiduronate (1.4 g, 3 mmol) was added, and the mixture was ice-cooled. Boron trifluoride diethyl ether (0.2 ml) was added, and the mixture was stirred at the same temperature for 30 minutes. Then water (10 ml) containing sodium bicarbonate (1 g) was added, and the mixture was stirred for 5 minutes. The dichloromethane layer was separated and concentrated under reduced pressure to obtain crude methyl 1-O-[1-acetoxy-6-(10-acetoxydecyl)-2,3-dimethoxy-5-methylphenyl]-2,3,4-tri-O-acetyl-β-D-glucopyranosiduronate. This crude product was dissolved in methanol (10 ml), and 1N sodium hydroxide solution (10 ml) was added. The mixture was allowed to react at room temperature for 16 hours and concentrated under reduced pressure. The residue was extracted with ether and then subjected to Sephadex (trade mark) LH-20 column chromatography and eluted with water. The desired fraction was lyophilized to obtain the desired compound (270 mg).

reactant | 2,3-Dimethoxy-6-(10-hydroxydecyl)-5-methyl-1,4-benzoquinone | 1 mmol, 338 mg | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCCO)=O | C19H30O5
reactant | Pyridine | 1.2 mmol, 0.1 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.1 mmol, 0.08 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrosulfite | 2.3 mmol, 400 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | tert-butylchlorodiphenylsilane | 2 mmol, 550 mg | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 2 mmol, 136 mg | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | Water | 5 ml | O | H2O
product | 6-(10-acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylphenol | C(C)(=O)OCCCCCCCCCCC1=C(C(=C(C(=C1O)OC)OC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C37H52O6Si
